US05814653
6-(4-methansulfonylbenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 8.7 mg (0.038 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 17.0 mg (0.085 mMol) 4-methanesulfonylbenzoic acid, 2.0 mg (13%) of the title compound were recovered as a beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.038 mMol, 8.7 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-methanesulfonylbenzoic acid | 0.085 mMol, 17.0 mg | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
product | 6-(4-methansulfonylbenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 2.0 mg, 13% | CS(=O)(=O)C1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C22H25N3O3S
